US08030500B2
6-Bromo-2,4-dimethyl-3-hydroxypyridine
A solution of bromine (4.2 mL, 81.2 mmol) in anhydrous pyridine (80 mL) was added dropwise to a solution of 2,4-dimethyl-3-hydroxypyridine (10.0 g, 81.2 mmol) in anhydrous pyridine (160 mL). The mixture was stirred at room temperature for 1 hour, concentrated under reduced pressure and then further dried under vacuum. The residue was taken up in water (100 mL) and the resulting mixture was stirred for 0.5 hour at room temperature. The precipitated solid was collected by filtration, washed with water and air dried overnight to afford 8.7 g (53%) of the title compound.

reactant | bromine | 81.2 mmol, 4.2 mL | BrBr | Br2
reactant | 2,4-dimethyl-3-hydroxypyridine | 81.2 mmol, 10.0 g | CC1=NC=CC(=C1O)C | C7H9NO
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 160 mL | N1=CC=CC=C1 | C5H5N
product | 6-Bromo-2,4-dimethyl-3-hydroxypyridine | 8.7 g, 53% | BrC1=CC(=C(C(=N1)C)O)C | C7H8BrNO
